### PR TITLE
feat: add decidable equality to `DHashMap`/`HashMap`/`HashSet` and their extensional variants

### PR DESCRIPTION
**Pull request by wkrozowski**
This PR adds decidable equality to `DHashMap`/`HashMap`/`HashSet` and their extensional variants. 

Stacked on top of #11266.

### CODE REVIEW

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 5bd331e85d9d110a29fb3367dbb21854010ffcbd`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-01 13:54:48)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 0173444d24df9253d7947cfe82519e4a6caffd3a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-04 12:18:46)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto dd28f005889dd2fcca6fe0638133de561a655ad1`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-04 18:03:57)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 455fd0b4488e2adc85f825a52e2ee7d944a5740a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-05 17:08:42)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 2ca3bc28590c5c33f755d3bd18252f25ea266266`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-08 09:23:37)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 1ae680c5e2f3922ba0c6c257a105426fdab20999 --onto 62f2f9229356039356c0469a46d8ecd77be88e2a`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-08 12:58:31)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 18248651a3cc12149d657a037855e21f4c3b457d --onto 19e1fe55f33a8aadc4243da32828b70a4b4677cc`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-12-10 18:59:16)

File: src/Std/Data/DHashMap/DecidableEq.lean [hunk 1]
```diff
@@ -0,0 +1,34 @@
...
+
+namespace Std.DHashMap
+
+variable {α : Type u} {β : α → Type v} [DecidableEq α] [Hashable α] [∀ k, DecidableEq (β k)] (m₁ m₂ : DHashMap α β)
+
+def Equiv.decide : Decidable (m₁ ~m m₂) :=
+  @decidable_of_iff _ _ ⟨fun h => ⟨h⟩, fun h => h.1⟩ <|
+    @Raw₀.Equiv.decide _ _ _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ m₁.2 m₂.2
+
+instance : Decidable (m₁ ~m m₂) := Equiv.decide m₁ m₂
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/DecidableEq.lean]: No need to do this in two steps, just give the `instance` directly.

File: src/Std/Data/DHashMap/DecidableEq.lean [hunk 2]
```diff
@@ -0,0 +1,34 @@
...
+prelude
+public import Std.Data.DHashMap.Internal.RawLemmas
+import all Std.Data.DHashMap.Basic
+public import Std.Data.DHashMap.AdditionalOperations
+import all Std.Data.DHashMap.AdditionalOperations
+
+public section
+
+/-!
+# Decidable equality for DHashMaps
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/DecidableEq.lean]: This isn't really accurate?

File: src/Std/Data/ExtDHashMap/DecidableEq.lean [hunk 3]
```diff
@@ -0,0 +1,24 @@
...
+public import Std.Data.DHashMap.DecidableEq
+
+public section
+namespace Std.ExtDHashMap
+
+open scoped Std.DHashMap
+
+variable {α : Type u} {β : α → Type v} [DecidableEq α] [Hashable α] [∀ k, DecidableEq (β k)] (m₁ m₂ : ExtDHashMap α β)
+
+def decidableEq : Decidable (m₁ = m₂) := @decidable_of_decidable_of_iff _ _ _ ⟨by apply ExtDHashMap.eq_of_beq_true, by apply ExtDHashMap.beq_of_eq⟩
```
Comment (TwoFX) [inline src/Std/Data/ExtDHashMap/DecidableEq.lean]: I would state this as `DecidableEq (ExtDHashMap α β)` (and, again, do it in one step instead of two).

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 4]
```diff
@@ -5113,4 +5137,17 @@ end map
 
 end Raw₀
 
+namespace Raw₀
+
+/-- Internal implementation detail -/
+def Equiv.decide [DecidableEq α] [Hashable α] [∀ k, DecidableEq (β k)]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: There is no token `decide` in the statement, and there is no `Equiv` hypothesis ->

```suggestion
def decidable_equiv [DecidableEq α] [Hashable α] [∀ k, DecidableEq (β k)]
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 5]
```diff
@@ -5113,4 +5137,17 @@ end map
...
+    (m₁ m₂ : Raw₀ α β) (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) : Decidable (m₁.1.Equiv m₂.1) := by
+  have decBEq : Decidable (Raw₀.beq m₁ m₂ = true) := inferInstance
+  apply @decidable_of_decidable_of_iff (Raw₀.beq m₁ m₂ = true) (m₁.1.Equiv m₂.1) decBEq
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]:
```suggestion
  apply decidable_of_iff (Raw₀.beq m₁ m₂ = true)
```

File: src/Std/Data/DHashMap/RawDecidableEquiv.lean [hunk 6]
```diff
@@ -0,0 +1,24 @@
...
+/-!
+# Decidable equivalence for `DHashMap.Raw`
+-/
+
+open Std.DHashMap.Internal
+
+namespace Std.DHashMap.Raw
+
+instance {α : Type u} {β : α → Type v} [DecidableEq α] [Hashable α] [∀ k, DecidableEq (β k)] {m₁ m₂ : Raw α β} (h₁ : m₁.WF) (h₂ : m₂.WF) : Decidable (m₁.Equiv m₂) :=
+  @Raw₀.Equiv.decide _ _ _ _ _ ⟨m₁, h₁.size_buckets_pos⟩ ⟨m₂, h₂.size_buckets_pos⟩ h₁ h₂
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/RawDecidableEquiv.lean]:
```suggestion
  Raw₀.Equiv.decide ⟨m₁, h₁.size_buckets_pos⟩ ⟨m₂, h₂.size_buckets_pos⟩ h₁ h₂
```

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 7]
```diff
@@ -5113,4 +5137,17 @@ end map
 
 end Raw₀
 
+namespace Raw₀
+
+/-- Internal implementation detail -/
+def decidable_equiv [DecidableEq α] [Hashable α] [∀ k, DecidableEq (β k)]
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]: Ah, sorry, my bad, this should be `decidableEquiv` of course, since this is a definition.

File: src/Std/Data/DHashMap/Internal/RawLemmas.lean [hunk 8]
```diff
@@ -5113,4 +5137,17 @@ end map
...
+    (m₁ m₂ : Raw₀ α β) (h₁ : m₁.val.WF) (h₂ : m₂.val.WF) : Decidable (m₁.1.Equiv m₂.1) := by
+  have decBEq : Decidable (Raw₀.beq m₁ m₂ = true) := inferInstance
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Internal/RawLemmas.lean]:
```suggestion
```

**Comment by wkrozowski** [comment]
@TwoFX ok, fixed the things you brought up.

File: src/Std/Data/DHashMap/Lemmas.lean [hunk 9]
```diff
@@ -1838,6 +1838,41 @@ theorem isEmpty_of_isEmpty_insertMany [EquivBEq α] [LawfulHashable α]
...
+
+theorem Const.equiv_of_beq [LawfulBEq α] [LawfulBEq β] (h : Const.beq m₁ m₂) : m₁ ~m m₂ := by
+  constructor
+  have := @Raw₀.Const.equiv_of_beq α _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ _ _ m₁.2 m₂.2 h
+  simp only at this
+  exact this
+
+theorem Const.Equiv.beq_congr [LawfulBEq α] {m₃ m₄ : DHashMap α (fun _ => β)} : m₁ ~m m₃ → m₂ ~m m₄ → Const.beq m₁ m₂ = Const.beq m₃ m₄ := by
+  intro h1 h2
+  exact @Raw₀.Const.Equiv.beq_congr α _ _ _ ⟨m₁.1, m₁.2.size_buckets_pos⟩ ⟨m₂.1, m₂.2.size_buckets_pos⟩ _ ⟨m₃.1, m₃.2.size_buckets_pos⟩ ⟨m₄.1, m₄.2.size_buckets_pos⟩ _ m₁.2 m₂.2 m₃.2 m₄.2 h1.1 h2.1
```
Comment (TwoFX) [inline src/Std/Data/DHashMap/Lemmas.lean]:
```suggestion
theorem Const.equiv_of_beq [LawfulBEq α] [LawfulBEq β] (h : Const.beq m₁ m₂) : m₁ ~m m₂ :=
  ⟨Raw₀.Const.equiv_of_beq m₁.2 m₂.2 h⟩

theorem Const.Equiv.beq_congr [LawfulBEq α] {m₃ m₄ : DHashMap α (fun _ => β)} : m₁ ~m m₃ → m₂ ~m m₄ → Const.beq m₁ m₂ = Const.beq m₃ m₄ :=
  fun h1 h2 => Raw₀.Const.Equiv.beq_congr m₁.2 m₂.2 m₃.2 m₄.2 h1.1 h2.1

```
I will forever wonder why you love `@` symbols so much.

File: src/Std/Data/ExtHashSet/Basic.lean [hunk 10]
```diff
@@ -217,6 +217,9 @@ instance [LawfulBEq α] : LawfulBEq (ExtHashSet α) where
     simp only [mk.injEq, ExtHashMap.mk.injEq] at |- hyp
     exact ExtDHashMap.Const.eq_of_beq _ _ hyp
 
+instance {α : Type u} [DecidableEq α] [Hashable α] : DecidableEq (ExtHashSet α) :=
```
Comment (TwoFX) [inline src/Std/Data/ExtHashSet/Basic.lean]: There is a subtle but important detail here: suppose I write this code:
```lean
@[ext]
structure A where
  a : Nat
  b : Nat
deriving Hashable

instance : BEq A where
  beq x y := x.b == y.b && x.a == y.a

@[simp]
theorem A.beq_eq {x y : A} : (x == y) = (x.b == y.b && x.a == y.a) := rfl

instance : LawfulBEq A where
  rfl {x} := by simp
  eq_of_beq {x y} := by grind [A.beq_eq, A.ext]

instance : DecidableEq A :=
  fun x y => by simp [A.ext_iff]; infer_instance

example : Decidable (ExtHashSet.ofList [A.mk 1 2] = ExtHashSet.ofList [A.mk 1 2]) := by
  infer_instance
```

The `infer_instance` line prints the error:
```
failed to synthesize instance of type class
  Decidable (ExtHashSet.ofList [{ a := 1, b := 2 }] = ExtHashSet.ofList [{ a := 1, b := 2 }])
```

Why is that? Isn't the required instance right there?

The answer is no: if you do
```lean
set_option pp.explicit true in
#check ExtHashSet.instDecidableEq
```
then you will find
```
Std.ExtHashSet.instDecidableEq.{u} {α : Type u} [DecidableEq α] [Hashable α] :
  DecidableEq (@ExtHashSet α (@instBEqOfDecidableEq α inst✝) inst✝¹)
````
So the `DecidableEq` instance you defined only works for hash sets where the underlying `BEq` instance is the one that is inferred from the `DecidableEq` instance via `instBEqOfDecidableEq`, which is not the case for the `A` in my example.

The solution here is to, everywhere in the PR, replace `[DecidableEq _]` assumptions with `[BEq _] [LawfulBEq _]` assumptions. This should make sure that `ExtHashSet.instDecidableEq` (and the other `Decidable` instances you're adding in this PR, which all suffer from the same problem) have the most general statement possible.

**Review by TwoFX — APPROVED** [review]
